data/mechanisms/records/IMS4-EQ4.44.json
{"mechanism_id": "IMS4-EQ4.44", "species": [{"species_id": "dichlorobutane_molecular_ion", "mapped_smiles": "[Cl+:1][CH:2]([CH3:3])[CH2:8][CH2:11][Cl:14]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "secondary_carbocation", "mapped_smiles": "[CH3:3][CH+:2][CH2:8][CH2:11][Cl:14]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "chlorine_radical", "mapped_smiles": "[Cl:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methallyl_cation", "mapped_smiles": "[CH3:3][CH+:2][CH:8]=[CH2:11]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hydrogen_chloride", "mapped_smiles": "[ClH:14]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dichlorobutane_molecular_ion"]}, {"state_id": "state_after_inductive", "species_ids": ["secondary_carbocation", "chlorine_radical"]}, {"state_id": "state_products", "species_ids": ["methallyl_cation", "hydrogen_chloride", "chlorine_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_after_inductive", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_h_rearrangement", "from_state": "state_after_inductive", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [11, 14]}, "target": {"type": "bond", "atom_maps": [8, 11]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 80, "equation": "4.44", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (EE+ H-rearrangement not involving the charge site)"}, "confidence": 0.85, "curator_note": "First step of eq 4.44 (arrow labelled 'i', inductive cleavage). The 1,3-dichlorobutane molecular ion is drawn n-ionized at the secondary chlorine (Cl carries '+.'): CH3-C(+.)HCl-CH2-CH2Cl. ARC COUNT: the book draws 1 arc - a single full-headed (two-electron) arrow whose tail sits on the C2-Cl1 sigma bond and whose head points at the charged chlorine (Cl1, the '+.'). This is charge-site-driven inductive heterolysis: the C2-Cl1 bonding pair migrates onto Cl1, neutralising it to a chlorine radical (Cl(+.) -> Cl.) and leaving an even-electron secondary carbocation CH3-CH(+)-CH2-CH2Cl (m/z 91). LOCALIZATION (convention B): charge and odd electron are placed on Cl1 in the mapped SMILES ([Cl+] with one sigma bond = Cl(+.), one unpaired electron), matching the '+.' the book draws over that chlorine. ENCODING: the single drawn arc is transcribed exactly as electron_move <1> (bond 1-2 -> atom 1, electron_count 2). The two electrons landing on Cl1 form a new lone pair while its pre-existing odd electron is retained, so the arrow-check reports a soft 'lone pair rather than radicals' note on atom 1 (radical count unchanged at 1); this is expected for a heterolysis onto an already-radical cation site and is not a defect."}, {"evidence_id": "evidence_step_rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 80, "equation": "4.44", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (EE+ H-rearrangement, 'rH', charge site not involved)"}, "confidence": 0.8, "curator_note": "Second step of eq 4.44 (arrow labelled 'rH'): the even-electron secondary carbocation eliminates neutral HCl, giving the resonance-stabilised C4H7(+) cation at m/z 55 (the base peak of 1,3- and 1,1-dichlorobutane per the running text). This is an H rearrangement that does NOT involve the charge site: the departing chlorine (Cl14, on the terminal CH2) abstracts an H from the adjacent CH2 (C8) while the C8=C11 double bond forms and the C11-Cl14 bond breaks. ARC COUNT: the book draws 2 arc(s): arc(1) runs from a chlorine lone pair (drawn as the ':' on Cl14) to the hydrogen on C8 (Cl abstracts H); arc(2) runs from the C8-H sigma bond into the forming C8=C11 pi bond. The book does NOT draw the C11-Cl14 heterolysis - the departure of chlorine as part of HCl is left IMPLICIT (Cl14 is simply written into the HCl product). For full electron balance an implicit third hook, C11-Cl14 sigma -> Cl14 lone pair, is required (not drawn on the page). ENCODING NOTE: because RDKit strips atom-mapped hydrogens in this build, the two drawn arcs (both terminate on / originate from the migrating H) are not directly transcribable. The heavy-atom skeleton change (form C8=C11, break C11-Cl14) is instead encoded as a single re-decomposed two-electron move <1> = bond 11-14 -> bond 8-11 (the C11-Cl14 sigma pair routed into the new C8=C11 pi bond); the complementary C8-H -> H-Cl14 transfer that supplies chlorine's H is folded into the implicit-H counts (C8: CH2 -> =CH; Cl14: Cl -> HCl). This re-decomposition preserves exactly the drawn heavy-atom transformation; no heavy-atom bond change is omitted, but the encoded move is NOT a verbatim copy of either drawn arc. RESONANCE (convention C): the product is the 1-methylallyl / methallyl cation, drawn here in the localized form CH3-CH(+)-CH=CH2 (charge on C2); its allylic resonance partner CH3-CH=CH-CH2(+) carries the charge on C11 and is the reason for the ion's stability and base-peak intensity. PRINTED INTENSITY: none - the page prints no numeric percentages; the text only states m/z 55 is 'the base peak', a qualitative statement, so relative_intensity is omitted."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 125.9992, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_91", "species_id": "secondary_carbocation", "step_id": "step_inductive_cleavage", "observed_mz": 91.0304, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}, {"peak_id": "peak_55", "species_id": "methallyl_cation", "step_id": "step_h_rearrangement", "observed_mz": 55.0537, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
